US07470768B2
14.30 g of tetrahydro-3-(9-decenyl)-2H-pyrane-2-one of interest was prepared in the same manner as in Example 1 except that 10.01 g (100.0 mmol) of δ-valerolactone and 26.30 g (110.0 mmol) of 10-bromo-1-decene were used instead of β-propiolactone and allyl amide described in Preparation Example 1.

reactant | δ-valerolactone | 100.0 mmol, 10.01 g | C1(CCCCO1)=O | C5H8O2
reactant | 10-bromo-1-decene | 110.0 mmol, 26.30 g | BrCCCCCCCCC=C | C10H19Br
reactant | β-propiolactone | C1(CCO1)=O | C3H4O2
reactant | allyl amide | C(C=C)[NH-]
product | tetrahydro-3-(9-decenyl)-2H-pyrane-2-one | 14.30 g | C(CCCCCCCC=C)C1C(OCCC1)=O | C15H26O2
